US08030302B2
1-(2,4-Dibromo-5-(2-fluoro-4-nitrophenoxy)benzylidene)-2-methylhydrazine (1.0 g, 2.2 mmol), cuprous chloride (22 mg, 0.2 mmol), potassium carbonate (0.638 g, 7.2 mmol), DMF (10 mL), and a stir bar are combined in a pressure tube under nitrogen. The cap is sealed and the tube is placed in an oil bath with stirring. The bath is heated to 100° C. over 30 min and held at 100° C. for 6 hours and then cooled to RT. The reaction mixture is poured into a separatory funnel containing MTBE (10 mL) and water (10 mL). The layers are separated and the aqueous layer is extracted with an additional portion of MTBE (10 mL). The organic layers are combined, and washed with water followed by saturated sodium chloride aqueous solution. The organic layer is dried over magnesium sulfate and concentrated to yield 0.70 g of crude product. The crude solid is dissolved in DCM and heptane, and then concentrated to remove DCM resulting in the formation of a slurry. The product is collected by filtration and dried under vacuum to give 6-bromo-5-(2-fluoro-4-nitrophenoxy)-1-methyl-1H-indazole as a solid (0.65 g, 79% yield). MS (m/z): 367.8 (M+H).

reactant | 1-(2,4-Dibromo-5-(2-fluoro-4-nitrophenoxy)benzylidene)-2-methylhydrazine | 2.2 mmol, 1.0 g | BrC1=C(C=NNC)C=C(C(=C1)Br)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C14H10Br2FN3O3
reactant | potassium carbonate | 7.2 mmol, 0.638 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | MTBE | 10 mL | CC(C)(C)OC | C5H12O
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | 6-bromo-5-(2-fluoro-4-nitrophenoxy)-1-methyl-1H-indazole | 0.65 g, 79% yield | BrC1=C(C=C2C=NN(C2=C1)C)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C14H9BrFN3O3
